US07446235B2
About 143 g of phenol (an amount that should lead to an equivalent amount of pentachlorophenol product, by moles, obtained when about 300 g of 2,4,6-trichlorophenol is used) were added to a reactor at 60° C. with 0.75 g of AlCl3 (about 0.25 wt. % based on trichlorophenol). The same stirring rate (100-120 RPM) and chlorine flow rate (1.5 mol/hr) as experiments that started with trichlorophenol were used.

reactant | phenol | 143 g | C1(=CC=CC=C1)O | C6H6O
reactant | pentachlorophenol | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
product | 2,4,6-trichlorophenol | about 300 g | ClC1=C(C(=CC(=C1)Cl)Cl)O | C6H3Cl3O
